* C:\Users\Admin\Documents\GitHub\RideSyncEmbedded\curr_meas_dc_v1.asc
* Generated by LTspice 24.1.10 for Windows.
X§U1 CURR_IN N003 VDD0 VSS N010 MAX40018 ;§pnba In+)In-)V+)V-)OUT
R4 0 N003 4Meg
R3 N003 N010 450k
X§U2 N016 N004 VDD0 VSS CURR_OUT2 MAX40018 ;§pnba In+)In-)V+)V-)OUT
R2 N004 CURR_OUT2 4Meg
R1 N010 N004 450k
RG N003 N004 28k
V1 N016 0 0
V2 VDD0 0 3
C3 0 VDD0 10µ V=6.3 Irms=5.2 Rser=0.0063 Lser=4.18n
V3 VSS 0 -3
C4 0 VSS 10µ V=6.3 Irms=5.2 Rser=0.0063 Lser=4.18n
R5 CURR_IN 0 1
I1 CURR_IN 0 PWL(0 0 20 10m)
X§U3 N015 N014 VDD0 VSS CURR_OUT1 MAX40018 ;§pnba In+)In-)V+)V-)OUT
R6 0 N015 100k
R7 N013 N009 100k
R10 N015 0 29.9Meg
R11 N009 CURR_OUT1 29.9Meg
R13 N013 0 1
I3 N013 0 PWL(0 0 20 10m)
V4 N009 N014 -0.311mV
X§U4 CURR_IN_AC N005 VDD0 VSS N011 MAX40018 ;§pnba In+)In-)V+)V-)OUT
R8 0 N005 4Meg
R9 N005 N011 450k
X§U5 N017 N006 VDD0 VSS CURR_OUT2_AC MAX40018 ;§pnba In+)In-)V+)V-)OUT
R12 N006 CURR_OUT2_AC 4Meg
R14 N011 N006 450k
RG1 N005 N006 28k
V5 N017 0 0
V6 CURR_IN_AC 0 AC 10mV
X§U6 CURR_IN_AC N001 VDD0 VSS N001 MAX40018 ;§pnba In+)In-)V+)V-)OUT
X§U7 N002 CURR_IN_AC N002 opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
R15 0 N007 4Meg
R16 N007 N012 450k
R17 N008 CURR_OUT_AC 4Meg
R18 N012 N008 450k
RG2 N007 N008 28k
V7 N018 0 0v
X§U8 N008 N018 CURR_OUT_AC opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
X§U9 N007 CURR_IN_AC N012 opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
X§U10 CURR_IN_AC N019 VDD0 VSS N020 MAX40018 ;§pnba In+)In-)V+)V-)OUT
R19 0 N019 1Meg
R20 N019 N020 16Meg
X§U11 0 N021 VDD0 VSS CURR_OUT3 MAX40018 ;§pnba In+)In-)V+)V-)OUT
R21 N021 CURR_OUT3 17Meg
R22 N020 N021 1Meg
R23 N022 0 1
I2 N022 0 PWL(0 0 20 10m)
* .tran 20s
* Vout = vref - vin (1 + R2 / R1 + (R2 + R4) / RG)\nif R4/R3 = R2 / R1, gain of vref stays 1
* Offset corr simulation
* My measurement range of interest is +/- 10 mA
* Offset corr simulation
.ac dec 100hz 1hz 50khz
.lib opamp.sub
* Offset corr simulation
.lib MAX40018.lib
.backanno
.end
